US04367216
59.5 g of 5-amino-2,4,6-triiodoisophthalic acid dichloride is condensed with 11 g of 2-methyl-3-thiaglutaric acid dichloride as described in Example 1(A), thus obtaining a mixture of 5,5'-(2-methyl-3-thiaglutaryldiimino)-bis(2,4,6-triiodoisophthalic acid dichloride) and 5-(2-methyl-3,5-dioxoperhydro-1,4-thiazin-4-yl)-2,4,6-triiodoisophthalic acid dichloride; this mixture is separated by chromatography on silica gel. With chloroform as the eluent, the first product separated is 5-(2-methyl-3,5-dioxoperhydro-1,4-thiazin-4-yl)-2,4,6-triiodoisophthalic acid dichloride and then 5,5'-(2-methyl-3-thiaglutaryldiimino)-bis(2,4,6-triiodoisophthalic acid dichloride is obtained as a pure compound. The yield is 15.5 g (24% of theory), m.p. 255° (decomposition). 10 g of this tetrachloride is reacted as described in Example 1(B) with 4 g of N-methylamino-2,3-propanediol. After the mixture has been worked up by precipitation into methylene chloride, removal of the anions and cations by means of weakly alkaline and weakly acidic ion exchangers, and reprecipitation from methanol/isopropanol (1:2), the yield is 6 g (50% of theory) of 5,5'-(2-methyl-3-thiaglutaryldiimino)-bis[2,4,6-triiodoisophthalic acid (2,3-dihydroxypropyl-N-methyl)diamide], m.p. 235°-320° (decomposition).

reactant | 5-amino-2,4,6-triiodoisophthalic acid dichloride | 59.5 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | 2-methyl-3-thiaglutaric acid dichloride | 11 g | CC(C(=O)Cl)SCC(=O)Cl | C5H6Cl2O2S
reactant | 5-(2-methyl-3,5-dioxoperhydro-1,4-thiazin-4-yl)-2,4,6-triiodoisophthalic acid dichloride | CC1SCC(N(C1=O)C=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I)=O | C13H6Cl2I3NO4S
product | 2,4,6-triiodoisophthalic acid dichloride | IC1=C(C(=O)Cl)C(=CC(=C1C(=O)Cl)I)I | C8HCl2I3O2
